US04643760
11.99 g of a 55% dispersion of sodium hydride are suspended in 40 ml of dimethylformamide and 13.04 ml of cyclopropylmethanol are added dropwise at 10° C. under a nitrogen atmosphere. The mixture is stirred for 15 minutes and then a solution of 21.16 g of 2-chloropyridin-3-ylsulfonamide in 40 ml of dimethylformamide is added dropwise. The reaction mixture is stirred for 30 minutes at 35°-40° C. and then taken up in a mixture of 275 ml of ethyl acetate, 275 ml of ice-water and 137.5 ml of 2N hydrochloric acid. The organic phase is separated and the aqueous phase is extracted with 3×100 ml of ethyl acetate. The combined organic phases are washed with 4×100 ml of water, dried, concentrated by evaporation and the residue is triturated with ether/hexane (2:1). The crystals so obtained are isolated and dried, affording 22.25 g of 2-cyclopropylmethoxypyridin-3-ylsulfonamide with a melting point of 121°-122° C.

reactant | sodium hydride | [H-].[Na+]
reactant | cyclopropylmethanol | 13.04 ml | C1(CC1)CO | C4H8O
reactant | 2-chloropyridin-3-ylsulfonamide | 21.16 g | ClC1=NC=CC=C1S(=O)(=O)N | C5H5ClN2O2S
reactant | hydrochloric acid | 2N, 137.5 ml | Cl | ClH
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 275 ml | C(C)(=O)OCC | C4H8O2
product | 2-cyclopropylmethoxypyridin-3-ylsulfonamide | 22.25 g | C1(CC1)COC1=NC=CC=C1S(=O)(=O)N | C9H12N2O3S
